US06313344B1
e) 1-(4-[{Dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-propane-1,2-dione-1-ethyloxime-2-oxime
14.3 g of 1-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-propane-1,2-dione-1-ethyl-oxime in 50 ml of pyridine are stirred with 3.5 g of hydroxylammonium chloride for 2 hours at 70° C. The reaction mixture is concentrated in vacuo and ethyl acetate is added to the residue; the organic phase is washed with water and saturated sodium chloride solution and dried over sodium sulfate; the solvent is evaporated off. Recrystallisation from hexane yields the title product having a melting point of 100-102° C.

reactant | 1-(4-[{dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-propane-1,2-dione-1-ethyl-oxime | 14.3 g | C(C)ON=C(C(C)=O)C1=CC=C(C=C1)OC[Si](C1=CC=C(C=C1)F)(C)C | C20H24FNO3Si
reactant | hydroxylammonium chloride | 3.5 g | [Cl-].O[NH3+]
solvent | pyridine | 50 ml | N1=CC=CC=C1 | C5H5N
product | 1-(4-[{Dimethyl-(4-fluorophenyl)-silyl}methoxy]phenyl)-propane-1,2-dione-1-ethyloxime-2-oxime | C(C)ON=C(C(C)=NO)C1=CC=C(C=C1)OC[Si](C1=CC=C(C=C1)F)(C)C | C20H25FN2O3Si
